US05284842
b) Methyl 3-aminomethyl-3-hydroxypiperidine-1-carboxylate
9.1 g (53.2 mmol) of methyl 5-aza-1-oxaspiro[2,5]octane-5-carboxylate are added dropwise to 50 ml of ammonia solution (25%) and the mixture is stirred overnight at room temperature. It is then concentrated and the residue is distilled.

reactant | methyl 5-aza-1-oxaspiro[2,5]octane-5-carboxylate | 53.2 mmol, 9.1 g | O1CC12CN(CCC2)C(=O)OC | C8H13NO3
reactant | ammonia | 50 ml | N | H3N
product | Methyl 3-aminomethyl-3-hydroxypiperidine-1-carboxylate | NCC1(CN(CCC1)C(=O)OC)O | C8H16N2O3
